### PR TITLE
Show lemmas about commuting TMu with TAnd (and in part with TOr)

### PR DESCRIPTION
**Pull request by Blaisorblade**

### CODE REVIEW

File: theories/Dot/examples/old_typing/old_unstamped_typing_derived_rules.v [hunk 1]
```diff
@@ -373,10 +374,19 @@ Proof.
...
-  ettrans; last apply iSub_LaterN.
-  rewrite !plusnO.
-  exact: Hsub.
+  apply iLaterN_Sub_LaterN, Hsub.
 Qed.
 
+Lemma iAnd_Mu Γ T1 T2 i
+  (Hu1 : is_unstamped_ty' (length Γ).+1 T1)
+  (Hu2 : is_unstamped_ty' (length Γ).+1 T2) :
+  Γ u⊢ₜ TAnd (μ T1) (μ T2), i <: μ (TAnd T1 T2), i.
```
Comment (Blaisorblade) [inline theories/Dot/examples/old_typing/old_unstamped_typing_derived_rules.v:383]: @smarter This is a gDOT proof of the typing rule you were asking about.
